US07279497B2
Preparation of (2S,3S,4R)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(4-trifluoromethylphenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran
The title compound (146 mg, 22%) was prepared using (2S,3S,4S)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran (356 mg, 1.26 mmol) and 4-trifluoromethylphenyl-1H-imidazol-2-ylmethylamine (305 mg, 1.26 mmol), according to the same procedure used for the preparation of example 0.1 above.

reactant | (2S,3S,4S)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran | 1.26 mmol, 356 mg | COC([C@]1(OC2=C([C@H]3[C@@H]1O3)C=C(C=C2)[N+](=O)[O-])C)OC | C13H15NO6
reactant | 4-trifluoromethylphenyl-1H-imidazol-2-ylmethylamine | 1.26 mmol, 305 mg | FC(C1=CC=C(C=C1)NCC=1NC=CN1)(F)F | C11H10F3N3
product | (2S,3S,4R)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(4-trifluoromethylphenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran | 146 mg, 22% | COC([C@]1(OC2=C([C@H]([C@@H]1O)N(CC=1NC=CN1)C1=CC=C(C=C1)C(F)(F)F)C=C(C=C2)[N+](=O)[O-])C)OC | C24H25F3N4O6
